US07560569B2
In a similar manner to Example 87, (2S,4S)-1-[[N-(4-carboxybicyclo[2.2.2]oct-1-yl)amino]acetyl]-4-fluoropyrrolidine-2-carbonitrile (50.0 mg) and 2-amino-4-(2-pyridyl)thiazole (60.3 mg) were used to obtain (2S,4S)-4-fluoro-1-[[N-[4-[N-[4-(2-pyridyl)thiazol-2-yl]amino]carbonylbicyclo[2.2.2]oct-1-yl]amino]acetyl)pyrrolidine-2-carbonitrile (11.6 mg).

reactant | (2S,4S)-1-[[N-(4-carboxybicyclo[2.2.2]oct-1-yl)amino]acetyl]-4-fluoropyrrolidine-2-carbonitrile | 50.0 mg | C(=O)(O)C12CCC(CC1)(CC2)NCC(=O)N2[C@@H](C[C@@H](C2)F)C#N | C16H22FN3O3
reactant | 2-amino-4-(2-pyridyl)thiazole | 60.3 mg | NC=1SC=C(N1)C1=NC=CC=C1 | C8H7N3S
product | (2S,4S)-4-fluoro-1-[[N-[4-[N-[4-(2-pyridyl)thiazol-2-yl]amino]carbonylbicyclo[2.2.2]oct-1-yl]amino]acetyl)pyrrolidine-2-carbonitrile | 11.6 mg | F[C@H]1C[C@H](N(C1)C(CNC12CCC(CC1)(CC2)C(=O)NC=2SC=C(N2)C2=NC=CC=C2)=O)C#N | C24H27FN6O2S
